US07517996B2
(Step 4) Synthesis of tert-butyl 5-(4-{[(3-methoxy-3-oxopropyl)thio]methyl}-phenyl)isoxazole-4-carboxylate
To tert-butyl 3-(4-{[(3-methoxy-3-oxopropyl)thio]methyl}phenyl)-3-oxopropionate (472 mg, 1.34 mmol) was added N,N-dimethylformamide dimethylacetal (5 ml), and the mixture was stirred at 100° C. for 1 hour. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethanol (10 ml). Hydroxylamine hydrochloride (280 mg, 4.03 mmol) was added, and the mixture was stirred at 70° C. for 2 hours. The solvent was evaporated under reduced pressure and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained crude product was purified by silica gel chromatography (hexane:ethyl acetate=5:1) to give the title compound (330 mg, 65%).

reactant | tert-butyl 3-(4-{[(3-methoxy-3-oxopropyl)thio]methyl}phenyl)-3-oxopropionate | 1.34 mmol, 472 mg | COC(CCSCC1=CC=C(C=C1)C(CC(=O)OC(C)(C)C)=O)=O | C18H24O5S
reactant | N,N-dimethylformamide dimethylacetal | 5 ml | COC(N(C)C)OC | C5H13NO2
reactant | Hydroxylamine hydrochloride | 4.03 mmol, 280 mg | Cl.NO
product | tert-butyl 5-(4-{[(3-methoxy-3-oxopropyl)thio]methyl}-phenyl)isoxazole-4-carboxylate | 330 mg, 65% | COC(CCSCC1=CC=C(C=C1)C1=C(C=NO1)C(=O)OC(C)(C)C)=O | C19H23NO5S
